US06440636B1
Production of 2-Acryloyloxy-2,4,4-trimethyl-γ-butyrolactone
The title compound was prepared in the same manner as in Production Example 10, except that ethyl methacrylate and acrylic chloride were used instead of ethyl acrylate and methacrylic chloride, respectively.

reactant | ethyl methacrylate | C(C(=C)C)(=O)OCC | C6H10O2
reactant | acrylic chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | methacrylic chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | 2-Acryloyloxy-2,4,4-trimethyl-γ-butyrolactone | C(C=C)(=O)OC1(C(=O)OC(C1)(C)C)C | C10H14O4
